US09428456B2
rac-1-[1-(3-Nitro-phenyl)-ethyl]-piperidine-4-carboxylic acid cyclohexylamide
Piperidine-4-carboxylic acid cyclohexylamide (1.5 g 7.132 mmol) and 3-nitroacetophenone (1.77 g, 10.7 mmol) are dissolved in MeOH (40 mL). Tetraisopropyl-orthotitanate (3.167 mL, 10.7 mmol) is added and the mixture is stirred at RT for 18 h. NaBH4 (539.6 mg, 14.3 mmol) is added carefully. The mixture is evaporated under reduced pressure. DCM (25 mL) and water (25 mL) are added, following by 1 M NaOH solution (50 mL). The organic phase is separated and the aqueous phase is extracted with DCM (25 mL). The combined organic phases are dried over MgSO4, filtered and concentrated. The crude residue is purified by flash chromatography on silica gel using a gradient of heptane/EtOAc 4:1 to EtOAc 100%. After concentration of the product-containing fractions, the title compound (0.375 g, 15%) is obtained as a colorless solid LC-MS A: tR=0.64 min; [M+H]+=360.26.

reactant | Piperidine-4-carboxylic acid cyclohexylamide | 7.132 mmol, 1.5 g | C1(CCCCC1)NC(=O)C1CCNCC1 | C12H22N2O
reactant | 3-nitroacetophenone | 10.7 mmol, 1.77 g | CC(=O)C1=CC(=CC=C1)[N+](=O)[O-] | C8H7NO3
reactant | NaBH4 | 14.3 mmol, 539.6 mg | [BH4-].[Na+]
solvent | MeOH | 40 mL | CO | CH4O
product | rac-1-[1-(3-Nitro-phenyl)-ethyl]-piperidine-4-carboxylic acid cyclohexylamide | 0.375 g, 15% | C1(CCCCC1)NC(=O)C1CCN(CC1)C(C)C1=CC(=CC=C1)[N+](=O)[O-] | C20H29N3O3
